US09233098B2
3. Preparation of ethyl 2-(1H-indazol-3-yl)acetate
2-(1H-indazol-3-yl)acetic acid (3.9 g, 22.1 mmol) was dissolved in anhydrous ethanol (100 mL) concentrated sulfuric acid (5 mL), and heated under reflux for 16 hours. It was concentrated under reduce pressure to remove most of ethanol, then water (30 mL) was added, and extracted with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate, concentrated to obtain the product 3.96 g, at a yield of 87.8%.

reactant | 2-(1H-indazol-3-yl)acetic acid | 22.1 mmol, 3.9 g | N1N=C(C2=CC=CC=C12)CC(=O)O | C9H8N2O2
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl 2-(1H-indazol-3-yl)acetate | 3.96 g, yield of 87.8% | N1N=C(C2=CC=CC=C12)CC(=O)OCC | C11H12N2O2
